US05585404
Aluminiumchloride, 1.75 g (13.16 mmol), in 5 ml ether was added to a suspension of lithiumaluminiumhydride, 0.25 g (6.58 mmol), in 3 ml ether during 20 min. 2-methyl-3-(4-methoxybenzoyl)benzofuran, 1.0 g (3.76 mmol), in 10 ml ether was added during 30 min, and the mixture then heated for 45 min. Excess of the reagent was destroyed by adding 0.35 ml H2O, 0.35 ml 1M NaOH and 3 ml H2O to the mixture. Ether, 200 ml, was added, and the organic layer was extracted with 2×100 ml H2O, 2×100 ml 1M sulphuric acid, 100 ml H2O and dried (MgSO4), evaporating gave 0.95 g of 2-methyl-3-(4-methoxybenzyl)benzofuran which was purified on silica.

reactant | Aluminiumchloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithiumaluminiumhydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-methyl-3-(4-methoxybenzoyl)benzofuran | CC=1OC2=C(C1C(C1=CC=C(C=C1)OC)=O)C=CC=C2 | C17H14O3
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 3 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 2-methyl-3-(4-methoxybenzyl)benzofuran | 0.95 g | CC=1OC2=C(C1CC1=CC=C(C=C1)OC)C=CC=C2 | C17H16O2
